US04297490
7-Amino-benzo[b]furan is reacted with thiophosgene in 3 N hydrochloric acid at room temperature over 1 hour to give 7-isothiocyanatobenzo[b]furan. (M.Pt. 45°-46° from petroleum ether.) Reaction of this isothiocyanate with ethanolamine in ether gives N-benzo[b]furan-7-yl-N'-2-hydroxyethylthiourea (m.pt. 138°-139° from methanol) which is used further in the crude state.

reactant | 7-Amino-benzo[b]furan | NC1=CC=CC2=C1OC=C2 | C8H7NO
reactant | thiophosgene | C(=S)(Cl)Cl | CCl2S
solvent | hydrochloric acid | 3 N | Cl | ClH
product | 7-isothiocyanatobenzo[b]furan | N(=C=S)C1=CC=CC2=C1OC=C2 | C9H5NOS
